US04710515
To a mixture of 16.7 g (0.050 mole) of 4'-amino-3,-5-di-tertiary-butyl-4-hydroxybiphenyl hydrochloride and 7.0 g (0.060 mole) of oxydiacetic anhydride in 200 ml of glyme was added 0.050 mole of triethylamine and the solution was warmed at 70° C. for one hour. The solution was cooled and a 50:50 mixture of dichloromethane and water was added. The organic layer was separated, washed with water twice and dried over magnesium sulfate. Filtration and evaporation provided a residue which was triturated with hexane and chilled. The solid was separated by filtration. Recrystallization from a mixture of chloroform and hexane gave a grey solid. The solid was dissolved in 23 ml of ethanol, the solution was filtered and 10 ml of water was added to the filtrate. The filtrate was cooled and the resulting precipitate was separated by filtration and dried to provide N-(3',5'-di-tertiary-butyl-4'-hydroxy-4-biphenylyl)diglycolamic acid, m.p. 183°-184° C. Analysis: Calculated for C24H31NO 5 : % C, 69.7; % H, 7.5; % N, 3.4; Found: % C, 69.9; % H, 7.6; % N, 3.1.

reactant | 4'-amino-3,-5-di-tertiary-butyl-4-hydroxybiphenyl hydrochloride | 0.050 mole, 16.7 g | Cl.NC1=CC=C(C=C1)C1=CC(=C(C(=C1)C(C)(C)C)O)C(C)(C)C
reactant | oxydiacetic anhydride | 0.060 mole, 7.0 g | O1CC(=O)OC(C1)=O | C4H4O4
reactant | triethylamine | 0.050 mole | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | ClCCl | CH2Cl2
solvent | glyme | 200 ml | C(OC)COC | C4H10O2
solvent | ethanol | 23 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | N-(3',5'-di-tertiary-butyl-4'-hydroxy-4-biphenylyl)diglycolamic acid | C(C)(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C1=CC=C(C=C1)NC(COCC(=O)O)=O | C24H31NO5
